US04202832
To a solution of 1.06 g. of 3-mercaptopropionic acid in 5 ml. of toluene and 2.0 g. of triethylamine, there was added with cooling 1.83 g. of p-chlorobenzylisothiocyanate. Two phases formed. The mixture was acidified with 1-N hydrochloric acid and extracted with chloroform. The chloroform phases were washed with water, dried over magnesium sulfate and concentrated. The residue was recrystallized from acetonitrile, and 2.1 g. of 3-{[(p-chlorobenzyl)thiocarbamoyl]thio}-propionic acid having a melting point of 126°-127° C. were obtained.

reactant | 3-mercaptopropionic acid | SCCC(=O)O | C3H6O2S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | p-chlorobenzylisothiocyanate | ClC1=CC=C(CN=C=S)C=C1 | C8H6ClNS
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-{[(p-chlorobenzyl)thiocarbamoyl]thio}-propionic acid | ClC1=CC=C(CNC(=S)SCCC(=O)O)C=C1 | C11H12ClNO2S2
